US07091352B2
2) 5-Carboxy-2-(4-fluorophenyl)-3-(pyridin-4-yl)thiophene
5-Ethoxycarbonyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)thiophene (15.17 g (46.3 mmol), prepared as described in 1)) was dissolved in ethanol (150 ml). To the solution was added an aqueous solution of 1 N sodium hydroxide (93 ml, 93 mmol), and the resulting mixture was stirred at 100° C. for 30 minutes. At the end of this time, ethanol was removed by distillation under reduced pressure. To the reaction residue was added water, and then an aqueous solution of 1 N hydrochloric acid (93 ml). The precipitated crystals were collected by filtration, to give the title compound (12.64 g) as a pale brown powder (yield 91%).

reactant | 5-Ethoxycarbonyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)thiophene | 46.3 mmol, 15.17 g | C(C)OC(=O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C18H14FNO2S
reactant | sodium hydroxide | 93 mmol, 1 N, 93 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-Carboxy-2-(4-fluorophenyl)-3-(pyridin-4-yl)thiophene | 12.64 g, yield 91% | C(=O)(O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C16H10FNO2S
